US07071201B2
Example 55: Synthesis of 1-{1-[2-(2-hydroxymethylpyridin5-yl)ethyl]piperidin-4-yl}indoline
1-{1-[2-(2-Cyanopyridin-5-yl)ethyl]piperidin-4-yl}indoline (0.103 g) was dissolved in toluene (1.5 ml). In a nitrogen atmosphere at −78° C., a 1.5 M solution (0.44 ml) of diisobutylaluminum hydride in toluene was added thereto and the resultant mixture was stirred under the same conditions for 1 hr. Then the reaction solution was poured into a 5% aqueous solution of sulfuric acid and basified with an aqueous solution of sodium hydroxide. Next, diethyl ether was added and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (0.066 g) as a yellow oil (yield: 64.5%).

reactant | 1-{1-[2-(2-Cyanopyridin-5-yl)ethyl]piperidin-4-yl}indoline | 0.103 g | C(#N)C1=NC=C(C=C1)CCN1CCC(CC1)N1CCC2=CC=CC=C12 | C21H24N4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-{1-[2-(2-hydroxymethylpyridin5-yl)ethyl]piperidin-4-yl}indoline | 0.066 g, yield: 64.5% | OCC1=NC=C(C=C1)CCN1CCC(CC1)N1CCC2=CC=CC=C12 | C21H27N3O
